US08084448B2
A. Trifluoromethanesulfonic Acid Benzofuran-3-yl Ester
To a solution of benzofuran-3-one (500 mg, 3.73 mmol) in methylene chloride (30 mL) at −20° C. is added triethylamine (1.13 g, 11.2 mmol) then a solution of trifluoromethanesulfonic anhydride (1.58 g, 5.59 mmol) in methylene chloride (5 mL) is added dropwise. The mixture is stirred at −20° C. for 1 h then it is quenched with 8% NaHCO3 solution. The organic phase is dried over magnesium sulfate and the solvent is removed under reduced pressure at a temperature less than 30° C. to give the title compound which is used directly in the next step.

reactant | benzofuran-3-one | 3.73 mmol, 500 mg | O1CC(C2=C1C=CC=C2)=O | C8H6O2
reactant | triethylamine | 11.2 mmol, 1.13 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 5.59 mmol, 1.58 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic Acid Benzofuran-3-yl Ester | O1C=C(C2=C1C=CC=C2)OS(=O)(=O)C(F)(F)F | C9H5F3O4S
